US08471005B2
2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (125.0 mg, 0.0004350 mol), N,N-Diisopropylethylamine (0.114 mL, 0.000652 mol) and (3-Amino-phenyl)-morpholin-4-yl-methanone (0.179 g, 0.000870 mol) were dissolved in 1-Methoxy-2-propanol (1.2 mL, 0.013 mol) and the reaction was irradiated at 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 22.40 mg of {3-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-morpholin-4-yl-methanone as a lyophilized powder. (M+H)=430.8. 1H NMR (400 MHz, DMSO, d6) δ 9.58 (s, 1H), 8.95 (s, 1H), 7.78 (m, 2H), 7.71 (m, 1H), 7.48 (m, 1H), 7.26 (m, 1H), 7.18 (m, 1H), 7.07 (t, 1H, J=7.48 Hz), 6.94 (m, 2H), 6.89 (m, 1H), 3.96 (s, 3H), 3.73 (m, 2H), 3.36 (m, 4H), 3.17 (m, 2H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.0004350 mol, 125.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | N,N-Diisopropylethylamine | 0.000652 mol, 0.114 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (3-Amino-phenyl)-morpholin-4-yl-methanone | 0.000870 mol, 0.179 g | NC=1C=C(C=CC1)C(=O)N1CCOCC1 | C11H14N2O2
reactant | 1-Methoxy-2-propanol | 0.013 mol, 1.2 mL | COCC(C)O | C4H10O2
product | {3-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-morpholin-4-yl-methanone | 22.40 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=C(C=CC2)C(=O)N2CCOCC2 | C24H23N5O3
